US07838547B2
4-(5-Chloropyridin-2-yl)-4-hydroxycyclohexanecarboxylic acid ethyl ester
Butyllithium (15% in hexane; 15 ml) was added dropwise to a solution of 2-bromo-5-chloropyridine (3.8 g) in diethyl ether (80 ml) at −78° C. and, after one hour, a solution of 4-oxocyclohexanecarboxylic acid ethyl ester (3.7 g) in diethyl ether (10 ml) was added dropwise. After 30 minutes, water was cautiously added and the mixture was extracted with ethyl acetate. The organic phase was dried over sodium sulfate, filtered and concentrated. The residue was purified by preparative HPLC. The product with the molecular weight of 283.76 (C14H18ClNO3); MS (ESI): 284 (M+H+) was obtained in this way.

reactant | Butyllithium | 15 ml | C(CCC)[Li]
reactant | 2-bromo-5-chloropyridine | 3.8 g | BrC1=NC=C(C=C1)Cl | C5H3BrClN
reactant | 4-oxocyclohexanecarboxylic acid ethyl ester | 3.7 g | C(C)OC(=O)C1CCC(CC1)=O | C9H14O3
reactant | water | O | H2O
solvent | diethyl ether | 80 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 4-(5-Chloropyridin-2-yl)-4-hydroxycyclohexanecarboxylic acid ethyl ester | C(C)OC(=O)C1CCC(CC1)(O)C1=NC=C(C=C1)Cl | C14H18ClNO3
